US07067658B2
Trifluoro-methanesulfonic acid 4-(2-chloro-4-trifluoromethyl-phenyl)-3-nitro-pyridin-2-yl-ester (0.50 g, 1.11 mmol), prepared substantially as described in Part C of Example 19a, and 1-methoxymethyl-propylamine HCl (0.31 g, 2.22 mmol) were treated substantially as described in Part C of Example 19a to produce 0.40 g (89%) of [4-(2-chloro-4-trifluoromethyl-phenyl)-3-nitro-pyridin-2-yl]-(1-methoxymethyl-propyl)-amine: MS (AP) m/z 403.8 [(M+H)+, 98].

reactant | Trifluoro-methanesulfonic acid 4-(2-chloro-4-trifluoromethyl-phenyl)-3-nitro-pyridin-2-yl-ester | 1.11 mmol, 0.50 g | ClC1=C(C=CC(=C1)C(F)(F)F)C1=C(C(=NC=C1)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-] | C13H5ClF6N2O5S
reactant | 1-methoxymethyl-propylamine HCl | 2.22 mmol, 0.31 g | Cl.COCC(CC)N
product | [4-(2-chloro-4-trifluoromethyl-phenyl)-3-nitro-pyridin-2-yl]-(1-methoxymethyl-propyl)-amine | 0.40 g, 89% | ClC1=C(C=CC(=C1)C(F)(F)F)C1=C(C(=NC=C1)NC(CC)COC)[N+](=O)[O-] | C17H17ClF3N3O3
